US07691850B2
a) 1,1-dimethylethyl 3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
To a solution of 1,1-dimethylethyl 3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate (3 g, 13.9 mmol) [Prepared according to Hong, C.-Y. J. Med. Chem. 1997, 40, 3584.] in DCM (100 mL) at 0° C. was added N-(benzyloxycarbonyloxy)succinimide (3.8 g, 15.3 mmol) portion-wise. After 1 h, the reaction was partitioned between H O-DCM. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried (Na SO), concentrated and purified by column chromatography (silica, 3% MeOH in DCM (1% NH OH)) yielding the title compound (4.8 g, quant.) as a clear oil: LCMS (ES) m/e 351 (M+H).

reactant | 1,1-dimethylethyl 3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate | 13.9 mmol, 3 g | NCC1CN(CC1O)C(=O)OC(C)(C)C | C10H20N2O3
reactant | N-(benzyloxycarbonyloxy)succinimide | 15.3 mmol, 3.8 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 4.8 g | OC1CN(CC1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H26N2O5
